US07888347B2
1,1-Dimethylethyl 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate (D34)
To a suspension of 4-[6-{[(1,1-dimethylethyl)oxy]carbonyl}-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl]benzoic acid (may be prepared as described in Description 23) (185 mg, 0.52 mmol) in dichloromethane (10 ml) was added 1,1′-(oxomethanediyl)bis-1H-imidazole (168 mg, 1.04 mmol) and the reaction stirred at room temperature, under argon, overnight. The solvent was evaporated in vacuo. Toluene (5 ml) and then (1Z)-N-hydroxyethanimidamide (may be prepared as described in Description 30) (116 mg, 1.56 mmol) were added and the reaction mixture heated, under argon, at reflux overnight. A further 2 eq. of 1,1′-(oxomethanediyl)bis-1H-imidazole was added and stirring continued for a further 40 minutes. A further 3 eq. of (1Z)-N-hydroxyethanimidamide was added and stirring continued for a further 3 hours. The reaction was cooled to room temperature and the solvent evaporated in vacuo. The resulting crude mixture was diluted with dichloromethane and water, and extracted into dichloromethane (×2). The combined organic fractions were washed with water (×1), dried over magnesium sulphate and solvent evaporated in vacuo to afford the title compound (D34). MS (ES+) m/e 340 [M-tBu]+.

reactant | 4-[6-{[(1,1-dimethylethyl)oxy]carbonyl}-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl]benzoic acid | 0.52 mmol, 185 mg | CC(C)(C)OC(=O)N1CCC=2C(CC1)=CN(N2)C2=CC=C(C(=O)O)C=C2 | C19H23N3O4
reactant | 1,1′-(oxomethanediyl)bis-1H-imidazole | 1.04 mmol, 168 mg | O=C(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | (1Z)-N-hydroxyethanimidamide | 1.56 mmol, 116 mg | ON\C(\C)=N/[H] | C2H6N2O
reactant | 1,1′-(oxomethanediyl)bis-1H-imidazole | 2 eq. | O=C(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (1Z)-N-hydroxyethanimidamide | 3 eq. | ON\C(\C)=N/[H] | C2H6N2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 2-[4-(3-methyl-1,2,4-oxadiazol-5-yl)phenyl]-4,5,7,8-tetrahydropyrazolo[3,4-d]azepine-6(2H)-carboxylate | CC1=NOC(=N1)C1=CC=C(C=C1)N1N=C2CCN(CCC2=C1)C(=O)OC(C)(C)C | C21H25N5O3
